US08236806B2
1-(2-fluorophenyl)-4-(3-(1-(3-nitrophenyl)-3-propyl-1H-pyrazol-5-yl)propyl)piperazine (Compound 174)
67 mg (83.6%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-(3-nitrophenyl)-3-propyl-1H-pyrazol-5-yl)propanal (51 mg, 0.178 mmol), 1-(2-fluorophenyl)piperazine (42 mL, 0.266 mmol), and NaBH(OAc)3 (198 mg, 0.936 mmol).

reactant | 3-(1-(3-nitrophenyl)-3-propyl-1H-pyrazol-5-yl)propanal | 0.178 mmol, 51 mg | [N+](=O)([O-])C=1C=C(C=CC1)N1N=C(C=C1CCC=O)CCC | C15H17N3O3
reactant | 1-(2-fluorophenyl)piperazine | 0.266 mmol, 42 mL | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | NaBH(OAc)3 | 0.936 mmol, 198 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(2-fluorophenyl)-4-(3-(1-(3-nitrophenyl)-3-propyl-1H-pyrazol-5-yl)propyl)piperazine | FC1=C(C=CC=C1)N1CCN(CC1)CCCC1=CC(=NN1C1=CC(=CC=C1)[N+](=O)[O-])CCC | C25H30FN5O2
